US05773463
(±) cis 2-Amino-1-(3,4dichlorophenoxy)indane Hydrochloride (E30)
The title compound was prepared in a similar manner to Example 26 from (±) cis 2-amino-1-indanol (2.24 g, 15.0 mmol), sodium hydride (0.54 g of an 80% dispersion in oil; 18.0 mmol) and 1,2-dichloro-4-fluorobenzene (2.97 g, 18.0 mmol). The crude product was purified by chromatography on silica eluting with 0-4% ethanol in diethyl ether. The resulting light brown oil (3.89 g) was extracted into a mixture of hexane and diethyl ether and treated with ethereal HCl to give the hydrochloride salt. Recrystallisation afforded the title compound as a colourless solid, m.p. 214°-215° C. (dec) (from methanol/ethyl acetate/diethyl ether).

reactant | (±) cis 2-amino-1-indanol | 15.0 mmol, 2.24 g | N[C@@H]1[C@@H](C2=CC=CC=C2C1)O | C9H11NO
reactant | sodium hydride | [H-].[Na+]
reactant | 1,2-dichloro-4-fluorobenzene | 18.0 mmol, 2.97 g | ClC1=C(C=C(C=C1)F)Cl | C6H3Cl2F
product | (±) cis 2-Amino-1-(3,4dichlorophenoxy)indane Hydrochloride | Cl.N[C@@H]1[C@@H](C2=CC=CC=C2C1)OC1=CC(=C(C=C1)Cl)Cl | InChI=1S/C15H13Cl2NO.ClH/c16-12-6-5-10(8-13(12)17)19-15-11-4-2-1-3-9(11)7-14(15)18;/h1-6,8,14-15H,7,18H2;1H/t14-,15+;/m0./s1
